US05688946
A mixture of 200 mg (0.55 mmol) of (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide, 174 mg (0.57 mmol) of (RS)-α-(sulphonylmethyl)hydrocinnamic acid guanidine salt, 95 mg (0.7 mmol) of HOBT, 62 mg (0.61 mmol) of triethylamine and 231 mg (0.61 mmol) of HBTU in 50 ml of dimethylformamide is stirred at room temperature overnight. Thereafter, the reaction mixture is evaporated to dryness in a high vacuum and, for purification, the crude product obtained is chromatographed on 50 g of silica gel with a 9:1 to 1:1 mixture of water and methanol as the eluent. This chromatography is carried out again in order to separate the two epimers obtained. After lyophilization from dioxan/water there are obtained 81 mg of the less polar (R or S)-2-[[(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-3-phenylpropanesulphonic acid guanidine salt and 40 mg of the more polar (S or R)-2-[[(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-3-phenylpropanesulphonic acid guanidine salt, each as a colourless powder.

reactant | (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide | 0.55 mmol, 200 mg | N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1 | C19H32N4O3
reactant | (RS)-α-(sulphonylmethyl)hydrocinnamic acid guanidine salt | 0.57 mmol, 174 mg | NC(=N)N.S(=O)(=O)=CC(C(=O)O)CC1=CC=CC=C1
reactant | HOBT | 0.7 mmol, 95 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.61 mmol, 62 mg | C(C)N(CC)CC | C6H15N
reactant | HBTU | 0.61 mmol, 231 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dioxan water | O1CCOCC1.O
product | 2-[[(S)-1-[[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]-3-phenylpropanesulphonic acid guanidine salt | NC(=N)N.C1(CCCCC1)C[C@@H]([C@H]([C@@H](O)C1CC1)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)C(CS(=O)(=O)O)CC1=CC=CC=C1 | InChI=1S/C29H42N4O7S.CH5N3/c34-26(21-11-12-21)27(35)24(14-20-9-5-2-6-10-20)32-29(37)25(15-23-16-30-18-31-23)33-28(36)22(17-41(38,39)40)13-19-7-3-1-4-8-19;2-1(3)4/h1,3-4,7-8,16,18,20-22,24-27,34-35H,2,5-6,9-15,17H2,(H,30,31)(H,32,37)(H,33,36)(H,38,39,40);(H5,2,3,4)/t22?,24-,25-,26-,27+;/m0./s1
